US07226644B2
Under nitrogen replacement, 247 g of 2,3,4-trifluorobromobenzene was dissolved in 740 ml of DMF, into which 247 mL of triethylamine, 3.7 g of tetrakistriphenylphosphine palladium (0), and 4.4 g of copper iodide (I) were added, and heated to 70° C. To this, 108 g of 3-methyl-1-butyne-3-ol was added dropwise for 1 hour, and the mixutre was then stirred for 2 hours at room temperature, for 1 hour at 50° C., for 30 minutes at 60° C., and for 2 hours at 80° C. Then, 500 mL of water was added and cooled to room temperature, to which 200 mL of concentrated hydrochloric acid was added. After this was extracted twice using ethyl acetate, the extract and the organic layer were mixed together, washed using water and a saturated saline solution in that order, and dried using anhydrous magnesium sulfate. After the solvent was evaporated under a reduced pressure, the residue was purified by distillation under a reduced pressure (78 to 84° C./0.65 to 0.70 mmHg) to obtain 229 g of 1-(3-methyl-3-hydroxy-1-butynyl)-2,3,4-trifluorobenzene as a yellow solid.

reactant | 2,3,4-trifluorobromobenzene | 247 g | FC1=C(C=CC(=C1F)F)Br | C6H2BrF3
reactant | 3-methyl-1-butyne-3-ol | 108 g | CC(C#C)(C)O | C5H8O
reactant | water | 500 mL | O | H2O
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | DMF | 740 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 247 mL | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 4.4 g | [Cu](I)I
product | 1-(3-methyl-3-hydroxy-1-butynyl)-2,3,4-trifluorobenzene | 229 g | CC(C#CC1=C(C(=C(C=C1)F)F)F)(C)O | C11H9F3O
